US06130217
3-(2-Pyridin-4-yl-thiazol-4-yl)phenol was prepared from α-bromo-3-acetoxy acetophenone and thioisonicotinamide as described in Preparation 42 and it was used in a crude state for the preparation of the glycidyl ether; m.p., 158-159° C.

reactant | thioisonicotinamide | C(C1=CC=NC=C1)(=S)N | C6H6N2S
reactant | glycidyl ether | C(C1CO1)OCC1CO1 | C6H10O3
product | 3-(2-Pyridin-4-yl-thiazol-4-yl)phenol | N1=CC=C(C=C1)C=1SC=C(N1)C=1C=C(C=CC1)O | C14H10N2OS
